US05514680
6-Chloro-5,7-difluoro-1,4-dihydroquinoxaline-2,3-dione
A mixture of 230 mg (1.29 mmol) of 4-chloro-3,5-difluoro-1,2-phenylenediamine and 125 mg (1.38 mmol) of oxalic acid in 4 mL of 2N HCl was refluxed for 3 h and cooled to room temperature. The mixture was filtered and washed by water, dried to leave a brown solid (245 mg, 82%), mp>250° C. 1H NMR (DMSO-d6), 6.921 (d, 1, J=9.61), 12.143 (s, 1), 12.168 (s, 1). MS, 232 (M+, 100), 204 (80), 176 (40), 149 (70), 171 (80). HRMS calcd for C8H335ClF2N2O2, 231.9848, found 231.9851.

reactant | 4-chloro-3,5-difluoro-1,2-phenylenediamine | 1.29 mmol, 230 mg | ClC1=C(C(=C(C=C1F)N)N)F | C6H5ClF2N2
reactant | oxalic acid | 1.38 mmol, 125 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | HCl | 2N, 4 mL | Cl | ClH
product | 6-Chloro-5,7-difluoro-1,4-dihydroquinoxaline-2,3-dione | 245 mg, 82% | ClC=1C(=C2NC(C(NC2=CC1F)=O)=O)F | C8H3ClF2N2O2
